US09388161B2
A 50-mL round-bottom flask was charged with (S)-(5-cyclobutoxy-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.140 g, 0.34 mmol), 1-cyclopropyl-4-iodo-1H-pyrazol-5-amine (0.071 g, 0.29 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (23.2 mg, 0.03 mmol, 0.10 equiv), sodium carbonate (0.061 g, 0.58 mmol), 1,4-dioxane (10 mL) and water (3 mL). The resulting mixture stirred for 18 h at 80° C. and was then cooled to room temperature. The reaction mixture was filtered through a short pad of Celite, and the filtrate was concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 1:5, ethyl acetate/petroleum ether) to afford ((2S)-6-(5-amino-1-cyclopropyl-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.025 g (20%) as light yellow oil. MS (ESI, pos. ion) m/z 407 [M+H]+.

reactant | (S)-(5-cyclobutoxy-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | 0.34 mmol, 0.140 g | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1B1OC(C(O1)(C)C)(C)C)C(=O)C1CC1)C | C24H34BNO4
reactant | 1-cyclopropyl-4-iodo-1H-pyrazol-5-amine | 0.29 mmol, 0.071 g | C1(CC1)N1N=CC(=C1N)I | C6H8IN3
reactant | sodium carbonate | 0.58 mmol, 0.061 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.03 mmol, 23.2 mg, 0.10 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | water | 3 mL | O | H2O
product | ((2S)-6-(5-amino-1-cyclopropyl-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | NC1=C(C=NN1C1CC1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)OC1CCC1 | C24H30N4O2
